US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 2-amino-6-methylpyridine gave 2-chloro-5-fluoro-N4-(6-methylpyridin-2-yl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.23 (s, 1H), 8.19 (s, 1H), 8.12 (d, 1H, J=3 Hz), 7.55 (bs, 1H), 7.69 (t, 1H, J=7.4 Hz), 9.35 (d, 1H, J=7.5 Hz); 19F NMR (CDCl3): −44073; LCMS: purity: 96%; MS (m/e): 239 (M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-amino-6-methylpyridine | NC1=NC(=CC=C1)C | C6H8N2
product | 2-chloro-5-fluoro-N4-(6-methylpyridin-2-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=NC(=CC=C1)C)F | C10H8ClFN4
